US06300325B1
b) Preparation of 2-cyano-5-nitro-phenylenediamine
To a solution of 2-cyano-5-nitroaniline (435 mg, 2.67 mmol) in dimethylsulfoxide (25 ml) was added tetramethylhydrazine iodide (534 mg, 2.67 mmol) and sodium t-pentoxide (880 mg, 8.01 mmol). The mixture was stirred at room temperature for 12 hrs., the reaction was quenched with 10% HCl. Precipitated solids were filtered and the remaining solution was extracted with ethyl acetate, the solvent was evaporated and chromatography of the resulting solid on silica gel (25%EtOAc/Hexane) gave the desired product (254 mg, 53%). 1H NMR (CD3COCD3): δ7.49 (d, 1H), 7.03 (bs, 2H), 6.80 (d, 1H), 5.78(bs, 2H).

reactant | 2-cyano-5-nitroaniline | 2.67 mmol, 435 mg | C(#N)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | tetramethylhydrazine iodide | 2.67 mmol, 534 mg | [I-].CN(N(C)C)C
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 2-cyano-5-nitro-phenylenediamine | 254 mg, 53% | C(#N)C1(C(C=C(C=C1)[N+](=O)[O-])N)N | C7H8N4O2
